Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
ring-enhancing lesions on MRI

 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
Ms. ___ is a ___ year old woman with no significant
medical history presenting with 4 weeks of gait unsteadiness and
right leg weakness. She reports that one morning she woke up and
noticed that she was swaying while walking and her right leg 
felt
heavy and like it was slower to respond. She presented to the 
PCP
who ___ an 8 day course of antihistamine for BPPV with no 
improvement.
Over this time, the gait unsteadiness would be better on some
days and worse on others, but it is constant throughout the day,
any time she walks. She is able to keep working because she
mostly sits at her work. She had one fall in which her right leg
did not respond as quickly as she thought it would: while 
getting
out of a car her right leg was caught on the curb and she had a
slight fall in which she could lower herself onto the ground
without headstrike or LOC. She does think that in the past 10 
days her leg movements have been improving although she does 
still have some difficulty with climbing stairs. 

No vision changes or changes in sensation. She is having
difficulty with her coordination in both of her hands. 

She also reports that her memory is worse x 2 weeks: when she 
forgets things like what she was looking for or why she was in a 
certain room, it takes her longer than usual to remember that 
again. She also had a few episodes in
the last month where she knows the word she wants to say, but 
for
some reason can not say it. She pauses, then replaces the word
with another and continues talking. Her daughter thinks she has 
had a change in how accurate her annunciation is. She has a lot 
of trouble remembering what she is reading in books and often 
will have to reread passages or chapters because she cannot 
remember what happened. Sometimes she will finish a book and 
won't remember what it is about. 

There was one episode about 6 months ago when her daughter was 
out for the evening and came home, they talked, her daughter 
showered and ate dinner with Ms. ___, and then later in 
the evening Ms. ___ did not remember her daughter having 
come home or showered.  

She had two brief, mild headaches this past month but has not 
had significant headache.

She had an MRI brain first without contrast (reportedly IV 
access
was the issue) which was consistent with demyelination, so she
had an MRI brain with contrast which revealed multiple scattered
ring-enhancing lesions, so she was referred to the ED.

She denies ever having an episode like this before, or any
episode in her life of weakness, numbness, tingling, difficulty
understanding or producing speech. She has not had recent change 
in appetite. No  fever, or chills, though she does endorse 
occasional night sweats
related to menopause. She had 15 lb weight loss ___ which
she attributes to increased activity while packing and moving 
homes and she has not fully regained this weight. She has gained 
3 lb back. She denies skin
growths or concerning skin lesions. 

She denies dysuria, abdominal pain, urgency and frequency. No 
hematochezia or change in stool caliber.

Her last colonoscopy a few years ago was
negative, last mammogram last year was negative. She is a 
smoker,
denies history of IVDU. She travels to ___ every ___ years,
most recently ___ x 2 weeks. She had diarrhea during 
this
trip and has had diarrhea every time she visits ___. She is a
vegetarian and has had a few bites of lamb and beef in her life,
but to her knowledge has never had pork. She has a history of a
"worm" which she found in her stool in ___ after a trip to 
___
in ___, and it was reportedly large enough that she believed 
she
had passed part of her small intestine with the bowel movement.
She brought the worm to a doctor and was prescribed a course of
oral medication, which she completed. She has otherwise traveled
to ___ and has no recollection of significant bug bites or
tick bites in her travels. There is a family history of cerebral
hemorrhage in her brother, sister, and nephew, and almost no
family history of cancer. 

 
Past Medical History:
Dupuytren's contracture
uterine artery embolization ___ years ago
tonsillectomy
appendectomy
___ motorcycle accident with right patellar fracture requiring
surgery and complicated by infection

 
Social History:
___
Family History:
Father: bypass surgeries, pacemaker, stents
Mother: DM, episodes of low blood pressure
Brother, eldest: epilepsy since childhood, mild intellectual
disability
Brother, middle: history of cerebral hemorrhage, currently well
and asymptomatic from this
Brother, youngest: cardiac stents
Sister: death caused by cerebral hemorrhage age ___
Daughter: elevated platelets, stomach "cyst"

Middle brother's daughter: epilepsy in childhood
Sister's son: death caused by "cerebral hemorrhage," though not
confirmed, at age ___

Paternal great aunt: breast cancer

 
Physical Exam:
Admission Exam:

Vitals: 98.1 84 94/51 16 99% RA
 General: NAD, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift, but very mild 
pronation
of the RUE noted; no orbiting. No tremor or asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  4    ___   ___  5-  ___     5     5
 R  4    ___   ___  ___- 5-    5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    NA  2
 Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Mildly wide base with right leg
slightly externally rotated with slightly shorter strides taken
with right leg. She is steady, however, and ambulates
independently. Negative Romberg. Walks on toes well, drops right
foot once when walking on heels then resumes, able to tandem
gait, though slowly. 

Discharge Exam: 
___ Temp: 97.6 (tmax 98.5) PO BP: 107/66-122/83 L Sitting 
HR:
58-68 RR: ___ O2 sat: 98% O2 delivery: Ra 

 General: NAD, sitting up in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 AB: no abdominal distension or tenderness, +BS
 Extremities: Warm, no edema
 Skin: No rashes or concerning lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Reports history
easily. Speech is fluent with full sentences and intact verbal
comprehension. Normal prosody. No evidence of
hemineglect. No left-right confusion. Patient is able to name 
low frequency and high frequency objects with some hesitance 
with low frequency objects (cuticle and hammock). She names 16 
"S" words in 1 minute and 19 "L" words in 1 minute. She is able 
to easily do serial 7s backward from 100. Intact adding and 
multiplying. Able to accurately calculate appropriate change. 
Slight hesitancy with luria sequence task. She remembered ___ 
words at 5 minutes. She remembered ___ words at 5 minutes and 
was able to remember an additional word with a prompt and the 
___ word with 2 prompts. No errors in praxis and no apraxia. She 
does well with trail a12b test. She is able to copy a cube well. 
She had some difficulty with go no go testing and with pattern 
recognition on ___ matrix test. 

- Cranial Nerves - PERRL 4->3 brisk. VF full to finger counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift but pronation of the 
RUE
noted; no orbiting. No tremor or asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___  Toe 
flex
 L  5    ___   ___  5   4+   5   4+    5     4+     4
 R  4    ___   ___  5   4+   5*  4     5     4      4
*with giveway
- Sensory - No deficits to light touch bilaterally.

-DTRs:
   Bi Tri ___ Pec Pat Ach
 L  2  2    2    -    3   2
 R  2  2    2    +   *NA  2
1 beat clonus bilaterally
*Not tested due to prior knee injury 
 Plantar response extensor on the right with oppenheim reflex 
test and flexor with withdrawal on the left. 

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed with finger tapping, faster on the right
compared to left. Misses nose with FTN (R worse than L). HTS
difficult bilaterally. 

- Gait - Normal initiation. mildly decreased right arm swing 
with
slightly shorter stride length with right leg. Steady and
ambulates independently. Negative Romberg. Walks on toes with
asymmetric gait with more time spent on right step. Walks on
heels with slight right foot drop with each step.  

 
Pertinent Results:
WBC 7.2, Hg 12.4, Hct 37.3, MCV 91, PLT 293, Neut 39%, Lymph 
49%, Mono 7.3%, Eos 4.1%, 

___ 04:15PM BLOOD Glucose: 90 UreaN: 10 Creat: 0.7 Na: 142
K: 4.1 Cl: 103 HCO3: 25 AnGap: 14 

___ 04:20AM BLOOD UricAcd: 3.7 

___ 04:20AM BLOOD TSH: 1.5 

___ 04:20AM BLOOD CRP: 1.3, ESR 6

___ 01:00PM BLOOD b2micro-2.0

___ 04:20AM BLOOD HIV Ab: NEG 

UA Large leuks, 29 WBC, negative urine culture

CSF tube 4: WBC 8, RBC 0, Poly 0, Lymph 91, Mono 8, Atyp 1
CSF tue 1: WBC 7, RBC 33, Poly 0, Lymph 89, Mono 10, Plasma cell 
1

Pending CSF studies: culture, cytology, toxoplasma gondii PCR, 
mycoplasma pneumonia PCR, HSV PCR, enterovirus culture, MS 
profile

___ serum studies: peripheral blood smear and cytometry, MS 
___, 

Second stool O&P pending

IMAGING:

MRI/MRA Brain without contrast ___
IMPRESSION: 
  
1. Multiple and predominantly symmetric subcortical and
periventricular T2/FLAIR white matter lesions, the mainly in a 
perivascular
distribution with the largest lesions measuring up to 2 cm.  The 
lesions
demonstrate peripheral diffusion-weighted hyperintense signal, 
without surrounding mass effect.  The lesions involve the corpus 
callosum.  Overall the findings would suggest demyelinating 
process.  More concerning process such as mass lesions is not 
entirely excluded.  Recommend further evaluation with contrast. 
2. No evidence of acute infarct or intracranial hemorrhage. 
3. Unremarkable MRA of the head. 
4. Within confines of noncontrast 2D time-of-flight technique,
unremarkable 

RECOMMENDATION(S):  Recommend repeat examination with contrast
when clinically feasible. 

MRI Brain with contrast ___
IMPRESSION:  
  
Many of the previously demonstrated T2/FLAIR hyperintense
supratentorial white 
matter lesions demonstrate incomplete thin rim enhancement, and
the 3 mm right 
ventrolateral pontine lesion also demonstrates contrast
enhancement.  In the 
absence of associated edema or mass effect, demyelinating 
disease
is most 
likely. 
  
RECOMMENDATION(S):  Recommend correlation with clinical history
and CSF studies.  Also recommend follow up MRI with and without
contrast. 

CT Abdomen/Pelvis w/ w/o contrast: 

1. No evidence of malignancy in the abdomen or pelvis. 
2. Hemangiomas in hepatic segments VII and III.  Other scattered 
subcentimeter hypodense lesions in the liver are too small to 
characterize. These likely represent benign hepatic cysts or 
biliary hamartomas however cannot rule out early developing 
metastasis and repeat imaging in 3 months is recommended to 
evaluate for growth. 
3. Large fibroid in the uterine fundus with irregular 
calcification. 

CT Chest:  
Large thyroid containing large cysts or nodules should be 
evaluated by 
ultrasound for possible malignancy.

 
Brief Hospital Course:
Ms. ___ is a ___ year old right handed woman with history 
of smoking and distant history of a treated parasitic infection 
who presented with 4 weeks of gait instability related to mild 
right leg weakness as well as memory and speech-production 
issues over the past several years. She was found on outpatient 
brain MRI to have multiple scattered ring-enhancing lesions seen 
mostly at the gray-white matter junction and was referred for 
admission for diagnostic work up.

On exam patient has mild right sided weakness with asymmetric 
gait which had improved somewhat prior to admission over the 
past week. She has pronation of the right upper extremity. She 
has 1 beat clonus bilaterally. Toe is extensor on the right. She 
has decreased right arm swing when ambulating and has slightly 
shorter stride length with the right leg. Cognitive testing 
notable for mild difficulty with memory retrieval, task 
switching and response inhibition but intact sustained attention 
and working memory. 

CSF was notable for WBC 8, RBC 0 ___ tube), Protein 32, glucose 
69. CSF did have 1 atypical cell and 1 plasma cell reported. 
Cytology was sent and pending. MS profile pending. CSF gram 
stain was negative. Serum and CSF multiple sclerosis panels are 
pending. Cryptoccocal antigen testing in the CSF was negative. 
Toxo pending. Acid fast culture in the CSF was negative. 
Mycoplasma pneumonia CSF PCR, enterovirus culture, HSV CSF PCR. 

Labs throughout admission were notable for no leukocytosis or 
eosinophilia, normal uric acid, LDH, B2 microglobulin, TSH, CRP, 
ESR. HIV was negative. TB Quantiferon ___ is pending. Because 
of the atypical cell and plasma cell, we sent a peripheral blood 
smear and peripheral flow cytometry - pending at the time of 
discharge. Rapid plasma regain test for syphilis was 
nonreactive. First stool test for ova and parasites was 
negative. 

Patient had a positive urinalysis during admission but was 
asymptomatic and urine culture was negative so she did not 
receive antibiotics. 
Because of the atypical cell and plasma cell, we sent a 
peripheral blood smear and peripheral flow cytometry - pending 
at the time of discharge. 

CT torso for systemic malignancy workup did show thyroid large 
nodules or cysts and further imaging with ultrasound was 
recommended. However, patient is followed by endocrinologist Dr. 
___ had past serial ultrasounds of these lesions 
which showed no growth and a FNA biopsy in ___ which showed no 
malignant cells. Will defer further thyroid evaluation to Dr. 
___ outpatient work up. CT abdomen also showed 
hemangiomas in the liver and other hypodense lesions thought to 
represent benign hepatic cysts or hamartomas. Repeat CT of the 
liver is recommended in 3 months to monitor for growth of these 
hypodense lesions as metastasis cannot be excluded. Uterus was 
notable for a calcified fibroid which does not require further 
evaluation. 

Given the appearance of the brain lesions and her diagnostic 
work up thus far, a demyelinating process is highest on the 
differential. At this time we cannot rule out a metastatic 
process or CNS lymphoma. She has no clear red flags on clinical 
history to suggest malignancy and she has had some spontaneous 
clinical improvement at home without treatment which make 
malignancy less likely. Her CT torso showed no obvious malignant 
process. CSF protein was normal. CSF cytology is pending. Serum 
cytometry and peripheral smear analysis is pending. Results of 
pending studies will need to be reviewed and additional testing 
may be needed before a malignant process can be excluded. CSF 
showed pleocytosis with lymphocytic predominance and patient is 
otherwise well appearing so infectious etiology is considered 
less likely. Several infectious studies are still pending at the 
time of discharge including quantiferon TB serum, Toxoplasma 
gondii CSF PCR, Mycoplasma pneumonia CSF PCR, enterovirus 
culture, HSV CSF PCR. 

Patient was at her neurologic baseline at time of discharge and 
stable for outpatient follow up of pending diagnostic studies. 
We recommend outpatient physical therapy. 

Transitional issues:
[ ] pending CSF studies: culture, cytology, toxoplasma gondii 
PCR, mycoplasma pneumonia PCR, HSV PCR, enterovirus culture, MS 
profile
[ ] pending serum studies: peripheral blood smear and cytometry, 
MS ___, 
[ ] f/u second stool O&P
[ ] outpatient 3rd stool O&P
[ ] repeat CT abdomen in 3 months to monitor liver lesions
[ ] Follow up with Neurology; if her diagnostic work up is 
inconclusive she may require a repeat lumbar puncture or brain 
biopsy; could also consider repeat brain MRI or spinal cord 
imaging if patient develops new symptoms
[ ] Follow up with Endocrinology for monitoring and diagnostic 
work up of thyroid lesions
[ ] Monitor cognitive functioning
[ ] outpatient physical therapy 
 
Medications on Admission:
No active medications as of ___

 
Discharge Medications:
No discharge medications. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Note that the discharge procedure took over 30 min to complete a 
detailed examination and address all questions and concerns, as 
well as counseling the patient a to the condition and plan.

Mild memory disturbance
Ring-enhancing lesions on Brain MRI
Abnormal Gait
Thyroid cysts

 
Discharge Condition:
Patient is alert and oriented. She has fluid speech. She is able 
to ambulate independently with mild gait asymmetry. 

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to Neurology due to your difficulty walking, 
memory changes, and an abnormal brain MRI. 

During your admission you had a lumbar puncture and we did a 
number of tests on your blood and spinal fluid to help figure 
out the cause of your brain lesions. 

The lab tests on your blood did not show any evidence of 
systemic (full body) inflammation. Your cerebral spinal fluid 
did show some inflammation which could suggest that the brain 
lesions are due to a demyelinating process or less likely that 
they are due to malignancy. We are much less concerned for an 
infection at this time and the fact that your walking has 
improved without treatment is very reassuring. So far the tests 
for infection have been negative. 

You also had a CT scan of your chest, abdomen, and pelvis. On 
this scan we saw cysts in your thyroid. We reviewed your 
endocrinology records from Dr. ___ included a thyroid 
ultrasound in ___ that showed cysts as well and know that she 
did a biopsy at that time which showed no malignant cells. We 
recommend follow up with her regarding additional thyroid work 
up. 

Your CT scan of the abdomen showed some hemangiomas 
(non-cancerous tumor made of blood vessels) in your liver and a 
calcified fibroid in your uterus. These do not need additional 
evaluation. Your liver also has some spots that could represent 
benign (normal) liver cysts or other benign tumors (known as 
hamartoma) but we would recommend repeat CT abdomen in 3 months 
to make sure that they have not grown as growth could suggest a 
malignant process. 

We did some tests on your memory during admission and you did 
pretty well and had good attention on testing but do have a 
little trouble retrieving memories. Your memory difficulties are 
likely related to your brain lesions and we will continue to 
monitor this over time. 

Please resume all medications as prior to discharge unless 
otherwise indicated.

You will need close follow up as the pending results return so 
that we can discuss the next best steps for evaluation and 
treatment if needed. 

Thank you for allowing us to participate in your care. 

We wish you the best,

The ___ Neurology Team

 
Followup Instructions:
___